US07705027B2
Acetic acid (0.37 ml, 6.44 mmol) was added dropwise to a mixture of 5-(2,4-Bis-benzyloxy-5-chloro-phenyl)-4-(4-formyl-phenyl)-isoxazole-3-carboxylic acid ethylamide (730 mg, 1.29 mmol), morpholine (0.225 ml, 2.58 mmol), 3A powdered molecular sieves (730 mg) and MeOH (21 ml). This was left to stir overnight under N2. The mixture was then evaporated in vacuo and the resultant crude partitioned between CH2Cl2 (3×40 ml) and sat. NaHCO3 solution (40 ml). The combined, dried (Na2SO4) organics were evaporated in vacuo to give crude 5-(2,4-Bis-benzyloxy-5-chloro-phenyl)-4-(4-morpholin-4-ylmethyl-phenyl)-isoxazole-3-carboxylic acid ethylamide (810 mg) as a yellow solid, LC/MS: RT=2.365 min. 638.4 (MH+).

reactant | Acetic acid | 6.44 mmol, 0.37 ml | C(C)(=O)O | C2H4O2
reactant | 5-(2,4-Bis-benzyloxy-5-chloro-phenyl)-4-(4-formyl-phenyl)-isoxazole-3-carboxylic acid ethylamide | 1.29 mmol, 730 mg | C(C)NC(=O)C1=NOC(=C1C1=CC=C(C=C1)C=O)C1=C(C=C(C(=C1)Cl)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C33H27ClN2O5
reactant | morpholine | 2.58 mmol, 0.225 ml | N1CCOCC1 | C4H9NO
solvent | MeOH | 21 ml | CO | CH4O
product | 5-(2,4-Bis-benzyloxy-5-chloro-phenyl)-4-(4-morpholin-4-ylmethyl-phenyl)-isoxazole-3-carboxylic acid ethylamide | 810 mg | C(C)NC(=O)C1=NOC(=C1C1=CC=C(C=C1)CN1CCOCC1)C1=C(C=C(C(=C1)Cl)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C37H36ClN3O5
